* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TPL1\TPL1_Simulacion_Circuital_V1.2.asc
RF2 N003 Vo_BP 36.3k
R2 Vo_HP N001 50k
RF1 N002 Vo_HP 36.3k
C1 Vo_BP N002 1000p
R4 Vo_BP N004 50k
C2 Vo_LP N003 1000p
R1 Vo_LP N001 50k
RG N001 Vin 56k
Vin Vin 0 AC 1
RQ N004 0 28.3k
R NC N004 50k
XU4 N004 N001 V+ V- Vo_HP level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU5 0 N002 V+ V- Vo_BP level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU6 0 N003 V+ V- Vo_LP level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 V+ 0 15
V2 0 V- 15
* Filtro de Variables de estado para UAF42
* 2
* 3
* 12
* 13
* 8
* 7
* 14
* 1
* 11
.ac dec 1e3 {w0/2/pi/1e3} {w0/2/pi*1e3}
.inc opamp.sub
.param wp= 2*pi*4600
.param Ww= wp
.param w0= 0.9523*Ww
.lib UniversalOpAmp1.lib
.backanno
.end
